US08703767B2
16. Preparation of N-(3-(6-((4-morpholinophenyl)amino)-1H-pyrazolo[3,4-d]pyrimidin-4-yl)phenyl)acrylamide
2,2,2-Trifluoroacetic acid (0.220 mL, 2.85 mmol) was added to a solution of N-(3-(6-((4-morpholinophenyl)amino)-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazolo[3,4-d]pyrimidin-4-yl)phenyl)acrylamide (15 mg, 0.029 mmol) in CH2Cl2 (5 mL) and the reaction mixture was stirred overnight at room temperature, after which the solvent was removed in vacuo. The residue was purified by flash column chromatography (5% CH3OH/CH2Cl2) to yield the title compound as a solid. 1H NMR (400 MHz, CD3OD): δ 8.71 (s, 1H), 7.32 (s, 1H), 7.99 (m, 1H), 7.74 (m, 3H), 7.54 (m, 1H), 7.00 (m, 2H), 6.48-6.43 (m, 2H), 5.82 (dd, 1H, J=2.4 and 9.6 Hz), 3.85 (m, 4H), 3.12 (m, 4H): ESI-MS: 442.27 [M+H]+.

reactant | 2,2,2-Trifluoroacetic acid | 2.85 mmol, 0.220 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | N-(3-(6-((4-morpholinophenyl)amino)-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazolo[3,4-d]pyrimidin-4-yl)phenyl)acrylamide | 0.029 mmol, 15 mg | O1CCN(CC1)C1=CC=C(C=C1)NC1=NC(=C2C(=N1)N(N=C2)C2OCCCC2)C=2C=C(C=CC2)NC(C=C)=O | C29H31N7O3
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | N-(3-(6-((4-morpholinophenyl)amino)-1H-pyrazolo[3,4-d]pyrimidin-4-yl)phenyl)acrylamide | O1CCN(CC1)C1=CC=C(C=C1)NC1=NC(=C2C(=N1)NN=C2)C=2C=C(C=CC2)NC(C=C)=O | C24H23N7O2
